US05262420
Preparation of 1-phenyl-3-(3-n-propyl-4-pyridyl)butane
2.1 g (9.35 mmol) of 1-phenyl-3-(3-methyl-4-pyridyl)butane, 1.46 g (9.35 mmol) of ethyl iodide and 2 equivalent of lithium-diisopropylamine were reacted in the same manner as in Example 1. The reaction product was purified to obtain 0.37 g of the desired compound (yield: 15.6%).

reactant | 1-phenyl-3-(3-methyl-4-pyridyl)butane | 9.35 mmol, 2.1 g | C1(=CC=CC=C1)CCC(C)C1=C(C=NC=C1)C | C16H19N
reactant | ethyl iodide | 9.35 mmol, 1.46 g | C(C)I | C2H5I
reactant | lithium diisopropylamine | 2 equivalent | [Li].C(C)(C)NC(C)C
product | 1-phenyl-3-(3-n-propyl-4-pyridyl)butane | 0.37 g, yield: 15.6% | C1(=CC=CC=C1)CCC(C)C1=C(C=NC=C1)CCC | C18H23N
